US07816522B2
To a solution of 426 mg of Yb(OTf)3 in 30 ml of THF there were added 1.2 g of 4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamine, 1.22 g of 7-methoxy-2,3-dihydrobenzofuran-5-carbaldehyde [CAS No. 363185-46-0], 1 g of MS3A and 1.9 ml of trimethylsilyl cyanide under a nitrogen atmosphere, and the mixture was stirred at room temperature. The reaction mixture was filtered through celite, and the celite was washed with 100 ml of ethyl acetate. The organic layer was concentrated under reduced pressure to give a crude product of (7-methoxy-2,3-dihydrobenzofuran-5-yl)-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamino]acetonitrile.

reactant | Yb(OTf)3 | 426 mg | C(F)(F)(F)S(=O)(=O)[O-].C(F)(F)(F)S(=O)(=O)[O-].C(F)(F)(F)S(=O)(=O)[O-].[Yb+3]
reactant | 4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamine | 1.2 g | CC1=NC(=NO1)C1=CC=C(C=C1)N | C9H9N3O
reactant | 7-methoxy-2,3-dihydrobenzofuran-5-carbaldehyde | 1.22 g | COC1=CC(=CC=2CCOC21)C=O | C10H10O3
reactant | trimethylsilyl cyanide | 1.9 ml | C[Si](C)(C)C#N | C4H9NSi
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | (7-methoxy-2,3-dihydrobenzofuran-5-yl)-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamino]acetonitrile | COC1=CC(=CC=2CCOC21)C(C#N)NC2=CC=C(C=C2)C2=NOC(=N2)C | C20H18N4O3
